US09029536B2
D) Ethyl {2-[4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenoxy]-1H-benzimidazol-1-yl}acetate
A mixture of ethyl {2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-1H-benzimidazol-1-yl}acetate (540 mg), 3-bromo-1-ethyl-1H-pyrazolo[4,3-b]pyridine (289 mg), Pd(PPh3)4 (44.3 mg), Na2CO3 (474 mg) in DME (10 mL) and water (2 ml) was refluxed overnight under Ar atmosphere. The reaction mixture was poured into water and extracted with AcOEt. The extract was washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (105 mg).

reactant | ethyl {2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-1H-benzimidazol-1-yl}acetate | 540 mg | CC1(OB(OC1(C)C)C1=CC=C(OC2=NC3=C(N2CC(=O)OCC)C=CC=C3)C=C1)C | C23H27BN2O5
reactant | 3-bromo-1-ethyl-1H-pyrazolo[4,3-b]pyridine | 289 mg | BrC1=NN(C=2C1=NC=CC2)CC | C8H8BrN3
reactant | Na2CO3 | 474 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | water | 2 ml | O | H2O
catalyst | Pd(PPh3)4 | 44.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl {2-[4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenoxy]-1H-benzimidazol-1-yl}acetate | 105 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(OC1=NC3=C(N1CC(=O)OCC)C=CC=C3)C=C2 | C25H23N5O3
